US08222243B2
((S)-3-Amino-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone, hydrochloride
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and N-Boc-3-(S)-aminopiperdine by the method described in Example 2 Method B. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried then chromatographed on silica gel with EtOAc/hexanes (50 then 75%) as eluant to afford intermediate N-Boc protected product as a colorless solid (87 mg, 76%). The Boc-protected intermediate was dissolved in 1,4-dioxane (5 mL) and treated with a 4 N solution of hydrogen chloride in 1,4-dioxane and stirred for 12 hr, after which time the reaction mixture was evaporated to approximately ½ volume and diluted with ethyl ether (20 mL). The resulting solids were filtered and air dried to afford product as a colorless solid (70 mg, 71% overall). 1H NMR (D2O) 1.36 (m, 1 H), 1.58 (m, 2 H), 1.90 (s, 3 H), 1.96 (m, 1 H), 3.08 (m, 3 H), 3.21 (m, 1 H), 3.65 (m, 1 H), 4.18 (br d, J=11.4, 1 H), 7.06 (br d, 1 H), 7.09 (br d, 1 H). 19F NMR −64.6. LC/MS 4.40 min, [M+1]+ 360.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | N-Boc-3-(S)-aminopiperdine | C(=O)(OC(C)(C)C)N1C[C@H](CCC1)N | C10H20N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | ((S)-3-Amino-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone, hydrochloride | 70 mg, 71% | Cl.N[C@@H]1CN(CCC1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F | InChI=1S/C15H16F3N3O2S.ClH/c1-8-12(20-23-13(8)15(16,17)18)10-4-5-11(24-10)14(22)21-6-2-3-9(19)7-21;/h4-5,9H,2-3,6-7,19H2,1H3;1H/t9-;/m0./s1
